US07491732B2
Methyl 2-(4-nitrophenoxy)isobutyrate was dissolved in methanol (50 mL) and water (50 mL). Sodium hydroxide (5 g) was added. The solution was stirred at rt for 30 min, then acidified with 1N HCl aq. to pH ˜3. The aq. Solution was extracted with ethyl acetate (2×100 mL). The organic layers were evaporated to give 2-(4-nitrophenoxy)isobutyric acid.

reactant | Methyl 2-(4-nitrophenoxy)isobutyrate | [N+](=O)([O-])C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C11H13NO5
reactant | Sodium hydroxide | 5 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-(4-nitrophenoxy)isobutyric acid | [N+](=O)([O-])C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11NO5
